US09163021B2
N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(3-cyclopropyl-pyrazol-1-yl)-acetamide
To a solution of (5-amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone (Preparation 29, 35 mg, 79 μmol), (3-cyclopropyl-pyrazol-1-yl)-acetic acid (17.74 mg, 106 μmol) and DIPEA (48.97 μL, 277 μmol) in THF (3 mL), T3P (166 μL, 277 μmol) was added and the mixture stirred at 25° C. for 18 hours. The reaction was evaporated under reduced pressure, the residue partitioned between water and ethyl acetate, the organic extracts washed with saturated sodium bicarbonate solution, dried over sodium sulphate, evaporated in vacuo and triturated with pentane-ether to afford the title compound as an off white solid (91%, 42 mg) that was taken directly on to the next step.

reactant | (5-amino-pyridin-3-yl)-{1-[2-(tert-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridin-3-yl}-methanone | 79 μmol, 35 mg | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H31FN4O2Si
reactant | (3-cyclopropyl-pyrazol-1-yl)-acetic acid | 106 μmol, 17.74 mg | C1(CC1)C1=NN(C=C1)CC(=O)O | C8H10N2O2
reactant | DIPEA | 277 μmol, 48.97 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | T3P | 277 μmol, 166 μL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(3-cyclopropyl-pyrazol-1-yl)-acetamide | C(C)(C)(C)[Si](OCC(C)(C)N1C=C(C=2C=NC=C(C21)F)C(=O)C=2C=C(C=NC2)NC(CN2N=C(C=C2)C2CC2)=O)(C)C | C31H39FN6O3Si
